US04240984
To a solution containing 20.8 g (0.10 moles) of p-toluylethyl-carbonate in 300 ml of tetrahydrofuran there are added 10.4 g of Pd on BaSO4 10% and 0.1 cc of a solution of sulfur and quinoline 1:3000. Proceeding as in Example I, step (6), 10.5 g of p-methylbenzaldehyde (yield 88%) are obtained.

reactant | p-toluylethyl-carbonate | 0.10 moles, 20.8 g | C1(=CC=C(C=C1)CCOC([O-])=O)C
reactant | sulfur | [S] | S
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
catalyst | Pd | 10.4 g | [Pd] | Pd
product | p-methylbenzaldehyde | 10.5 g, yield 88% | CC1=CC=C(C=O)C=C1 | C8H8O
